US05175157
3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-piperidin-3-yl)methyl]-7,8-dimethoxy-1-hydroxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride
0.70 g (0.0014 mol) of 3-[(N-(2-(3,4-dimethoxy-phenyl)ethyl)-piperidin-3-yl)-methyl]-7, 8-dimethoxy-1,3,4,5-tetrahydro2H-3-benzazepin-1,2-dione are dissolved in a mixture of methanol and water (95:5), 0.060 g (0.0016 mol) of sodium borohydride are added and the mixture is stirred for 20 minutes at ambient temperature. Then it is acidified with 2 molar hydrochloric acid, neutralized with ammonia and extracted with methylene chloride. The organic phase is dried over magnesium sulphate, concentrated by evaporation in vacuo and the residue obtained is purified over 100 g of aluminium oxide (neutral, activity II-III) with methylene chloride and then with increasing amounts of ethanol (up to 15%). The hydrochloride is precipitated from a solution in acetone using methanolic hydrochloric acid.

reactant | 3-[(N-(2-(3,4-dimethoxy-phenyl)ethyl)-piperidin-3-yl)-methyl]-7, 8-dimethoxy-1,3,4,5-tetrahydro2H-3-benzazepin-1,2-dione | 0.0014 mol, 0.70 g | COC=1C=C(C=CC1OC)CCN1CC(CCC1)CN1CCC2=C(C(C1=O)=O)C=C(C(=C2)OC)OC | C28H36N2O6
reactant | sodium borohydride | 0.0016 mol, 0.060 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2 molar | Cl | ClH
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-piperidin-3-yl)methyl]-7,8-dimethoxy-1-hydroxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride | Cl.COC=1C=C(C=CC1OC)CCN1CC(CCC1)CN1CCC2=C(C(C1=O)O)C=C(C(=C2)OC)OC | InChI=1S/C28H38N2O6.ClH/c1-33-23-8-7-19(14-24(23)34-2)9-12-29-11-5-6-20(17-29)18-30-13-10-21-15-25(35-3)26(36-4)16-22(21)27(31)28(30)32;/h7-8,14-16,20,27,31H,5-6,9-13,17-18H2,1-4H3;1H
